US04000297
N-p-toluyl-DL-tryptophane
The same procedure is used as in Example 1, p-toluyl chloride and DL-tryptophane being used. Yield 82%. Melting point 217.5° to 218.5° C.

reactant | p-toluyl chloride | C1(=CC=C(C=C1)Cl)C | C7H7Cl
reactant | DL-tryptophane | NC(CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
product | N-p-toluyl-DL-tryptophane | Yield 82% | C1(=CC=C(C=C1)NC(CC1=CNC2=CC=CC=C12)C(=O)O)C | C18H18N2O2
